US06974822B2
Step (1): 4-(7-bromo-3-oxo-2H-6-azaisoquinolin-2-ylmethyl)benzenesulfonamide
The alkylation of 7-bromo-3-hydroxy-6-azaisoquinoline (1.00 g, 4.40 mmol) using 4-bromomethyl-benzene sulfonamide (1.67 g, 6.69 mmol) and cesium carbonate (2.18 g, 6.69 mmol) in dimethyl-formamide is carried out as previously described in Example 1, Step (1). Purification on a silica gel column eluted with hexanes/ethyl acetate 3:1, followed by trituration with hexanes/ethyl acetate 4:1 will afford the desired product.

reactant | 7-bromo-3-hydroxy-6-azaisoquinoline | 4.40 mmol, 1.00 g | BrC1=NC=C2C=C(N=CC2=C1)O | C8H5BrN2O
reactant | 4-bromomethyl-benzene sulfonamide | 6.69 mmol, 1.67 g | BrCC1=CC=C(C=C1)S(=O)(=O)N | C7H8BrNO2S
reactant | cesium carbonate | 6.69 mmol, 2.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl-formamide | CN(C=O)C | C3H7NO
product | 4-(7-bromo-3-oxo-2H-6-azaisoquinolin-2-ylmethyl)benzenesulfonamide | BrC=1N=CC2=CC(N(C=C2C1)CC1=CC=C(C=C1)S(=O)(=O)N)=O | C15H12BrN3O3S
